data/mechanisms/records/IMS8-EQ8.82d.json
{"mechanism_id": "IMS8-EQ8.82d", "species": [{"species_id": "alkoxy_radical_oxonium_ion", "mapped_smiles": "[CH3:8][CH:7]([O:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[OH+:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "aldehyde_protonated_ester_ion", "mapped_smiles": "[CH:7](=[O:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[OH+:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "R_radical", "mapped_smiles": "[CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["alkoxy_radical_oxonium_ion"]}, {"state_id": "state_products", "species_ids": ["aldehyde_protonated_ester_ion", "R_radical"]}], "steps": [{"step_id": "step_alpha_loss_of_R_from_alkoxy", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [7, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [7, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_82d", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_loss_of_R_from_alkoxy", "support_type": "textbook_proposed", "locator": {"page": 198, "equation": "8.82", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Middle horizontal arrow of Equation 8.82, labelled 'a, -R.': the alkoxy-radical / protonated-ester ion made in Equation 8.82a undergoes a textbook radical-site alpha cleavage at the carbinol carbon, expelling R. and forming the aldehyde C(7)=O(9); the charge stays on the protonated methoxy oxygen O(11), which is untouched. Book draws 2 arc(s) for this branch, both single-barb fishhooks and both SOLID: (i) from the radical dot on O(9) curving down into the C(7)-O(9) bond (encoded as move <1>) and (ii) from the R-C(7) bond curving up into the same C(7)-O(9) bond (move <2>). Move <3>, the second homolysis hook that puts the other C(7)-R electron on the departing radical R., is an implicit hook required for electron balance (not drawn on the page). NOTE ON THE SAME PANEL: a third, DASHED fishhook is printed there, running from the C(7)-(CH2)n bond into the C(7)-O(9) bond; it does NOT belong to this step but to the competing 'a, -RCHO' branch drawn downwards from the same panel (record IMS8-EQ8.82e), which is why the book dashes it. INSTANTIATION (the scheme is generic in R and in the chain length n): R = CH3 and n = 5, i.e. methyl 7-hydroxyoctanoate CH3-CH(OH)-(CH2)5-C(=O)-OCH3 (C9H18O3, M+. m/z 174.1250). n = 5 is the smallest chain that makes the final 'rH, a' step of this same scheme proceed through the favoured six-membered transition state, and it keeps the book's (CH2)n-3 label meaningful ((CH2)2). NO m/z and NO percentage is printed anywhere in Equation 8.82 except 'm/z 55' on the last product; every other mass in these records is the curator's computed monoisotopic value for this instantiation, not a measured number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI (the reacting ion is the rH-isomerized molecular ion of Equation 8.82a, same m/z)", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 174.125, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_M_minus_R_d", "species_id": "aldehyde_protonated_ester_ion", "step_id": "step_alpha_loss_of_R_from_alkoxy", "observed_mz": 159.1016, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
